US07700655B2
(2) (S)-2-Acetoxy-5-chloro-N-(2-phenyl-1-{[3,5-bis(trifluoromethyl)phenyl]carbamoyl}-ethyl)benzamide
WSC.HCl (184 mg, 0.96 mmol) was added to a solution of 2-acetoxy-5-chlorobenzoic acid (104 mg, 0.48 mmol), (S)-2-amino-3-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]propionamide (0.20 g, 0.48 mmol) and 1-hydroxybenzotriazole (71.4 mg, 0.53 mmol) in N,N-dimethylformamide (4 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the ethyl acetate layer was washed successively with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=3:1→2:1) to give the title compound (141.4 mg, 51.4%) as a white crystal.

reactant | WSC.HCl | 0.96 mmol, 184 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-acetoxy-5-chlorobenzoic acid | 0.48 mmol, 104 mg | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)Cl | C9H7ClO4
reactant | (S)-2-amino-3-phenyl-N-[3,5-bis(trifluoromethyl)phenyl]propionamide | 0.48 mmol, 0.20 g | N[C@H](C(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CC=CC=C1 | C17H14F6N2O
reactant | 1-hydroxybenzotriazole | 0.53 mmol, 71.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | (S)-2-Acetoxy-5-chloro-N-(2-phenyl-1-{[3,5-bis(trifluoromethyl)phenyl]carbamoyl}-ethyl)benzamide | 141.4 mg, 51.4% | C(C)(=O)OC1=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C=C(C=C1)Cl | C26H19ClF6N2O4
